US07592453B2
4-Cyano-N-((1R,2S)-2-{[(3aR,4R,9bR)-4-(1H-imidazol-2-yl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide
[2-((3aR,4R,9bR)-1-{[(1S,2R)-2-aminocyclohexyl]carbonyl}-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-4-yl)-1H-imidazol-1-yl]methyl pivalate dihydrochloride (7.16 g, 13.0 mmol) was dissolved in ethyl acetate (170 ml) and 10% aqueous sodium carbonate solution (140 ml), and 4-cyanobenzoyl chloride (2.59 g, 15.6 mmol) was added under ice-cooling. The reaction mixture was stirred at room temperature for 2 hrs., and the separated aqueous layer was extracted with ethyl acetate. The combined organic layer was dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol (1:0-10:1, v/v) to give an amorphous form. This was dissolved in methanol (200 ml), 28% aqueous ammonia (100 ml) was added dropwise, and the mixture was stirred for 5 hrs. The solvent was evaporated under reduced pressure and the residue was subjected to silica gel column chromatography and eluted with ethyl acetate-methanol (1:0-5:1, v/v) to give the title compound (6.06 g, 94%) as an amorphous form.

reactant | [2-((3aR,4R,9bR)-1-{[(1S,2R)-2-aminocyclohexyl]carbonyl}-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-4-yl)-1H-imidazol-1-yl]methyl pivalate dihydrochloride | 13.0 mmol, 7.16 g | Cl.Cl.C(C(C)(C)C)(=O)OCN1C(=NC=C1)[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)[C@@H]2[C@@H](CCCC2)N
reactant | 4-cyanobenzoyl chloride | 15.6 mmol, 2.59 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | ammonia | 100 ml | N | H3N
solvent | ethyl acetate | 170 ml | C(C)(=O)OCC | C4H8O2
solvent | sodium carbonate | 140 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 4-Cyano-N-((1R,2S)-2-{[(3aR,4R,9bR)-4-(1H-imidazol-2-yl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinolin-1-yl]carbonyl}cyclohexyl)benzamide | 6.06 g, 94% | C(#N)C1=CC=C(C(=O)N[C@H]2[C@H](CCCC2)C(=O)N2CC[C@@H]3[C@@H](NC=4C=CC=CC4[C@@H]32)C=3NC=CN3)C=C1 | C29H30N6O2
